US06613913B2
3-[1-(2-Methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-8-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole-5-carbonitrile
[(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate (0.60 g, 1,6 mmole) and 3-(1,2,3,6-tetrahydro4-pyridinyl)-1H-indole-5-carbonitrile (0.85 g, 3.8 mmole) were combined in 70 mL of DMSO under nitrogen. This solution was heated to 75-80° C. under nitrogen. After completion, the reaction was cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The crude residue was column chromatographed on silica gel using 30% hexane/ethyl acetate to remove impurities. Ethyl acetate eluted the product, which was a yellow oil (0.24 g, 42%). The oil was crystallized from ethanol with the addition of a solution of fumaric acid (0.12 g, 1.02 mmole) in hot ethanol to give 0.20 g of the (S)-enantiomer of the title compound as a yellow solid difumarate•0.50 hydrate, m.p. 119° C. MS (ESI) m/z 427 (M+H)+.

reactant | [(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzenesulfonate | 1,6 mmole, 0.60 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C18H17NO6S
reactant | 3-(1,2,3,6-tetrahydro4-pyridinyl)-1H-indole-5-carbonitrile | 3.8 mmole, 0.85 g | N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C#N | C14H13N3
reactant | fumaric acid | 1.02 mmole, 0.12 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
solvent | ethanol | C(C)O | C2H6O
product | 3-[1-(2-Methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-8-ylmethyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-1H-indole-5-carbonitrile | CC1=NC=2C(=C3OC(COC3=CC2)CN2CCC(=CC2)C2=CNC3=CC=C(C=C23)C#N)O1 | C25H22N4O3
